* C:\users\haaken\Mine dokumenter\lowpassfilter.asc
V1 N001 0 AC 1 0 Rser=50.00
L1 N001 N002 160.0n
C2 N002 0 91.00p
L3 N002 N003 270.0n
C4 N003 0 110.0p
L5 N003 N004 270.0n
C6 N004 0 110.0p
L7 N004 N005 270.0n
C8 N005 0 110.0p
L9 N005 N006 220.0n
C10 N006 0 62.00p
RL N006 0 50
.ac dec 1001 22.00Meg 343.8Meg
.net I(RL) V1
* 10th Order Chebyshev Lowpass\nSeries First\nCutoff Frequency = 55 MHz\nPassband Ripple = 0.10 dB
.backanno
.end
